US06486190B1
A solution of 1-t-butoxycarbonyl-2,4-dimethyl-5-isothiocyanatobenzimidazole (1.15 g, 3.8 mmol) in methylene chloride (100 mL) is added dropwise over 15 minutes to 1,2-ethylenediamine (1.26 mL, 18.9 mmol) in solution in methylene chloride (200 mL). The mixture is stirred for 2 hours at room temperature. The mixture is rotary evaporated and the residue is triturated with ether (150 mL) for 1 hour at room temperature. The solid is filtered and dried in vacuo to afford N-(1-t-butoxycarbonyl-2,4-dimethyl-5-benzimidazolyl)-N′-2-aminoethylthiourea as a white solid.

reactant | 1-t-butoxycarbonyl-2,4-dimethyl-5-isothiocyanatobenzimidazole | 3.8 mmol, 1.15 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2C)N=C=S)C | C15H17N3O2S
reactant | 1,2-ethylenediamine | 18.9 mmol, 1.26 mL | C(CN)N | C2H8N2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(1-t-butoxycarbonyl-2,4-dimethyl-5-benzimidazolyl)-N′-2-aminoethylthiourea | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2C)NC(=S)NCCN)C | C17H25N5O2S
